* F:\ENG. RIYAD\Ref\Ref Codes\Riyad_Complete_Codes\ATMEGA32A\Solar Auto Switcher\Solar Heater Control\PlatformIO\Solar_Heater_Control\SHC.asc
XU1 N003 0 N004 N006 MOC3023
R1 N003 N002 220
R2 N001 N004 220
R3 0 N006 1000
XU2 N001 N006 0 BTA06-600C
V2 N002 0 5
C1 N005 0 100nF V=400
R4 N001 N005 47 pwr=1
V1 N001 0 SINE(0 310 50)
.tran 1
.inc MOC302x.lib
.inc st_standard_snubberless_triacs.lib
.backanno
.end
